US04240822
Preparation of 4-Nitro 1H-benzotriazole
To a cooled solution (20° C.) of 1,060 milliliters of 20% fuming sulfuric acid and 265 milliliters of 90% nitric acid is added in a dropwise fashion a solution of 537 grams of benzotriazole in 1000 milliliters of concentrated sulfuric acid. The temperature is not allowed to exceed 50° C. At the end of the addition, the reaction mixture is allowed to stand at room temperature overnight. The reaction mixture is then poured over 9 liters of ice and water and a heavy yellow precipitate forms. The solid is collected by filtration, washed with water and dried. The solid, which is a mixture of the 4-nitro (90%) and the 5-nitro (10%) isomers, is then slurried with 7.5 liters of refluxing acetonitrile, the mixture cooled and 537 grams (73%) of pure 4-nitrobenzotriazole is collected by filtration, m.p. 228°-231° C.

reactant | nitric acid | 265 milliliters | [N+](=O)(O)[O-] | HNO3
reactant | benzotriazole | 537 grams | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | water | O | H2O
solvent | sulfuric acid | 1000 milliliters | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 1,060 milliliters | S(O)(O)(=O)=O | H2O4S
product | 4-Nitro 1H-benzotriazole | [N+](=O)([O-])C1=CC=CC=2NN=NC21 | C6H4N4O2
